US07572809B2
Similar procedure as described in example 2c was used, starting from 2-cyanomethyl-4,5-dimethoxy-benzoic acid and 3-amino-5-cyclopropylpyrazol to give 3-(5-Cyclopropyl-1H-pyrazol-3-ylamino)-6,7-dimethoxy-2H-isoquinolin-1-one. LC-MS: m/e 327 (MH+).

reactant | 2-cyanomethyl-4,5-dimethoxy-benzoic acid | C(#N)CC1=C(C(=O)O)C=C(C(=C1)OC)OC | C11H11NO4
reactant | 3-amino-5-cyclopropylpyrazol | NC1=NNC(=C1)C1CC1 | C6H9N3
product | 3-(5-Cyclopropyl-1H-pyrazol-3-ylamino)-6,7-dimethoxy-2H-isoquinolin-1-one | C1(CC1)C1=CC(=NN1)NC=1NC(C2=CC(=C(C=C2C1)OC)OC)=O | C17H18N4O3
